US08809352B2
(R)-tert-Butyl 4-(4-(4-morpholino-1-(phenylthio)butan-2-ylamino)-3-(trifluoromethylsulfonyl)phenylsulfonamido)-5H-pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate
tert-Butyl 4-(1H-benzo[d][1,2,3]triazol-1-yloxy)-5H-pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate (448 mg, 1.264 mmol), (R)-4-(4-morpholino-1-(phenylthio)butan-2-ylamino)-3(trifluoromethylsulfonyl)benzenesulfonamide (910 mg, 1.643 mmol), and potassium carbonate (524 mg, 3.79 mmol) were combined in N,N-dimethylformamide (6.3 mL) and stirred for 1.5 hours at 85° C. and then for 2.5 hours at 95° C. The reaction was then cooled to room temperature and stirred for 16 hours. The reaction was treated with water (˜30 mL) and sonicated. A dark brown solid stuck to the flask. The solid was washed several times with water and then several times with diethyl ether. This residue was then treated with methanol (˜15 mL), and the off-white precipitate formed was removed by filtration. The dark brown filtrate was concentrated in vacuo to afford a brown solid. The water and ether washes were combined and diluted with more water and ether. The layers were separated, and the organic layer was dried over sodium sulfate, filtered and concentrated down. This residue was combined with the brown solid and purified by flash chromatography on silica gel (0 to 10% methanol/ethyl acetate followed by 0 to 30% methanol/dichloromethane) to afford the title compound (199 mg, 13% yield). MS (ESI) m/e (M+H)+=773.5.

reactant | tert-Butyl 4-(1H-benzo[d][1,2,3]triazol-1-yloxy)-5H-pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate | 1.264 mmol, 448 mg | N1(N=NC2=C1C=CC=C2)OC=2C1=C(N=CN2)CN(C1)C(=O)OC(C)(C)C | C17H18N6O3
reactant | (R)-4-(4-morpholino-1-(phenylthio)butan-2-ylamino)-3(trifluoromethylsulfonyl)benzenesulfonamide | 1.643 mmol, 910 mg | O1CCN(CC1)CC[C@H](CSC1=CC=CC=C1)NC1=C(C=C(C=C1)S(=O)(=O)N)S(=O)(=O)C(F)(F)F | C21H26F3N3O5S3
reactant | potassium carbonate | 3.79 mmol, 524 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 6.3 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | water | ˜30 mL | O | H2O
product | (R)-tert-Butyl 4-(4-(4-morpholino-1-(phenylthio)butan-2-ylamino)-3-(trifluoromethylsulfonyl)phenylsulfonamido)-5H-pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate | 199 mg, 13% yield | O1CCN(CC1)CC[C@H](CSC1=CC=CC=C1)NC1=C(C=C(C=C1)S(=O)(=O)NC=1C2=C(N=CN1)CN(C2)C(=O)OC(C)(C)C)S(=O)(=O)C(F)(F)F | C32H39F3N6O7S3
